US05496805
Following the procedure of Example 16, L-serine is reacted with 3-acetylthio-2-methyl-propanoyl chloride to give (±)-N-[3-(acetylthio)-2-methyl -1-oxopropyl]-L-serine.

reactant | L-serine | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | 3-acetylthio-2-methyl-propanoyl chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
product | (±)-N-[3-(acetylthio)-2-methyl -1-oxopropyl]-L-serine | C(C)(=O)SCC(C(=O)N[C@@H](CO)C(=O)O)C | C9H15NO5S
